US04975431
To a solution of 1.6M n-butyl lithium in n-hexane (16.5 m,) in toluene (20 ml) at -20°, under nitrogen, was added a solution of 2-bromo-6,7,8,9-tetrahydro-3-methyl 5H cyclohepta[b]pyridine (6 g, 0.025 m) in toluene (30 ml). The reaction mixture was kept at -20° C. for 0.25 hours and then blown over into a cooled solution (-20° C.) of 3-methoxybenzaldehyde (3.7 g) in toluene (30 ml) and allowed to warm up to room temperature. Water was added and the organic phase separated and treated with 2N hydrochloric acid. A precipitate formed and this was collected by filtration and treated with sodium carbonate solution, then chloroform. The organic phase was washed with water, dried (MgO4) and evaporated. Trituration with diethyl ether gave 1-(6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)-1-(3-methoxyphenyl)methanol (4.42 g, 59%) m.p. 104°-6° C.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 2-bromo-6,7,8,9-tetrahydro-3-methyl 5H cyclohepta[b]pyridine | 6 g | BrC1=C(C=C2C(=N1)CCCCC2)C | C11H14BrN
reactant | 3-methoxybenzaldehyde | 3.7 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | Water | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)-1-(3-methoxyphenyl)methanol | 4.42 g, 59% | CC=1C=C2C(=NC1C(O)C1=CC(=CC=C1)OC)CCCCC2 | C19H23NO2
